US06197748B1
To a solution of Boc-(D)-Arg(Cbz2)—OH (1 g, 1.8 mmol) in CH2Cl2 (10 mL) was added HOSu (466 mg, 4.06 mmol), DIEA (1 mL) and EDC (846 mg, 4.4 mmol). The solution was stirred for 48 h. The solvent was evaporated and residue was dissolved in EtOAc (50 mL) and water (10 mL). The separated organic layer was washed with sat. NaHCO3 (10 mL), water (10 mL), 1 M HCl (10 mL) and sat. NaCl (3×10 mL). The organic layer was dried over MgSO4, filtered and evaporated. The oily residue was either used directly in Example 4 without further purification or purified by flash column over silica gel (50% EtOAc in hexane) to give Boc-(D)-Arg(Cbz2)-OSu (1 g, 85% yield).

reactant | Boc-(D)-Arg(Cbz2)—OH | 1.8 mmol, 1 g | N([C@H](CCCNC(N(C(=O)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1)=N)C(=O)O)C(=O)OC(C)(C)C | C27H34N4O8
reactant | HOSu | 4.06 mmol, 466 mg | ON1C(=O)CCC1=O | C4H5NO3
reactant | DIEA | 1 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | EDC | 4.4 mmol, 846 mg
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | Boc-(D)-Arg(Cbz2)-OSu | 1 g, 85% yield | N([C@H](CCCNC(N(C(=O)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1)=N)C(=O)ON1C(=O)CCC1=O)C(=O)OC(C)(C)C | C31H37N5O10
